US09315490B2
27a) 6-(Morpholine-4-carbonyl)-1H-indole-3-carbaldehyde
A solution of (1H-indol-6-yl)(morpholino)methanone (200 mg, 0.869 mmol, 1.0 eq) in DMF (3.0 ml) was added dropwise at 0° C. to phosphorus oxychloride (0.34 mL, 2.60 mmol, 3.0 eq) in DMF (5.0 mL) under stirring. The mixture was stirred at room temperature for 3 h, then neutralized with saturated sodium hydrogen carbonate solution, diluted with water (20 mL), and extracted with ethyl acetate (2×10 mL). The organic layers were combined, washed with brine (20 mL), dried over sodium sulfate and evaporated. The residue was purified by silica gel column chromatography [100-200 mesh; methanol/dichloromethane=1:9]. White solid. Yield: 100 mg (45% of theory).

reactant | (1H-indol-6-yl)(morpholino)methanone | 0.869 mmol, 200 mg, 1.0 eq | N1C=CC2=CC=C(C=C12)C(=O)N1CCOCC1 | C13H14N2O2
reactant | phosphorus oxychloride | 2.60 mmol, 0.34 mL, 3.0 eq | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
solvent | water | 20 mL | O | H2O
product | 6-(Morpholine-4-carbonyl)-1H-indole-3-carbaldehyde | N1(CCOCC1)C(=O)C1=CC=C2C(=CNC2=C1)C=O | C14H14N2O3
